US07691892B2
c) 3-(3,5-difluorophenyl)-4-methyl-5-(methylsulfonyl)-4H-1,2,4-triazole
m-CPBA (10 g, 33-50 mmol, 57-86% pure) was added to a solution of 3-(3,5-difluorophenyl)-4-methyl-5-(methylthio)-4H-1,2,4-triazole (4.9 g, 20.3 mmol) in DCM (60 mL) and the reaction was stirred o.n. 2M NaOH (50 mL) was added and the mixture was extracted. The water phase was re-extracted with EtOAc (2×) and the combined organic phases were dried (MgSO4) and evaporated to give 5.4 g (98%) of the title compound.

reactant | m-CPBA | 33-50 mmol, 10 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 3-(3,5-difluorophenyl)-4-methyl-5-(methylthio)-4H-1,2,4-triazole | 20.3 mmol, 4.9 g | FC=1C=C(C=C(C1)F)C1=NN=C(N1C)SC | C10H9F2N3S
reactant | NaOH | 2M, 50 mL | [OH-].[Na+]
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 3-(3,5-difluorophenyl)-4-methyl-5-(methylsulfonyl)-4H-1,2,4-triazole | 5.4 g, 98% | FC=1C=C(C=C(C1)F)C1=NN=C(N1C)S(=O)(=O)C | C10H9F2N3O2S
